US06166219
Thionyl chloride (13.34 g) was added to 4.06 g of 4-phenoxybenzyl alcohol, and the mixture was stirred at 80° C. for 3.5 hours. After the completion of the concentration, the reaction mixture was extracted with ethyl acetate and with water. The organic layer was concentrated to give 4.31 g of 4-phenoxybenzyl chloride.

reactant | Thionyl chloride | 13.34 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-phenoxybenzyl alcohol | 4.06 g | O(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O2
product | 4-phenoxybenzyl chloride | 4.31 g | O(C1=CC=CC=C1)C1=CC=C(CCl)C=C1 | C13H11ClO
